US05962458
A solution of 1-[2-(tetrahydropyran-2-yloxy)ethyl]-1,4-dihydro-4-pyridone (500 mg, 2.23 mmol) in acetic acid (4 ml), THF (2 ml) and water (1 ml) was heated at 45° C. for 4 hours. The volatiles were removed by evaporation to give 1-(2-hydroxyethyl)-1,4-dihydro-4-pyridone (221 mg, 71%) as an off-white solid.

reactant | 1-[2-(tetrahydropyran-2-yloxy)ethyl]-1,4-dihydro-4-pyridone | 2.23 mmol, 500 mg | O1C(CCCC1)OCCN1C=CC(C=C1)=O | C12H17NO3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 1-(2-hydroxyethyl)-1,4-dihydro-4-pyridone | 221 mg, 71% | OCCN1C=CC(C=C1)=O | C7H9NO2
